US09382226B2
Step A. 1-cyclopropyl-5,6-difluoro-1H-benzo[d]imidazol-2(3H)-one
Carbonyldiimidazole (4.3 g) was added to the solution of N1-cyclopropyl-4,5-difluorobenzene-1,2-diamine (3.2 g) in THF (30 ml). The mixture was stirred at rt for 20 hours, then diluted with ethyl acetate (200 ml) and washed with hydrochloric acid (1M, 200 ml). Organic layer dried over sodium sulphate, solvent removed to give expected product as a black solid (2.5 g). 1H NMR (CD3OD)δ: 7.20 (dd, 1H), 6.95 (dd, 1H), 2.86 (m, 1H), 1.11 (m, 2H), 0.94 (m, 2H).

reactant | Carbonyldiimidazole | 4.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N1-cyclopropyl-4,5-difluorobenzene-1,2-diamine | 3.2 g | C1(CC1)NC=1C(=CC(=C(C1)F)F)N | C9H10F2N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-cyclopropyl-5,6-difluoro-1H-benzo[d]imidazol-2(3H)-one | 2.5 g | C1(CC1)N1C(NC2=C1C=C(C(=C2)F)F)=O | C10H8F2N2O
